US04140713
c. 2-Amino-5-[1-hydroxy-2-[N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amino]ethyl]benzenesulphonamide
A solution of 2-amino-5-(2-bromoacetyl)benzenesulphonamide (0.5 g), N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl) amine (0.45 g) and propylene oxide (2.5 ml) in 2-butanone (30 ml) was heated under reflux for 3 hours. The solution was then concentrated to a red-brown oil (0.7 g) which was dissolved in absolute ethanol (30 ml) and treated with sodium borohydride (258 mg) at room temperature during 2 hours. Excess borohydride was then destroyed with 2N hydrochloric acid and the ethanol was removed under reduced pressure. The residue was basified with 8% sodium bicarbonate and extracted with ethyl acetate (3 × 50 ml). The extracts were washed with water (100 ml), dried and concentrated to an orange oil (0.63 g). The oil was dissolved in acetone (10 ml) and re-precipitated as an orange solid (340 mg) by addition of petroleum ether (b.p. 60°-80°). Chromatographic purification of this solid on silica plates [Merck St17; elution with chloroform: methanol (5:1 )] and conversion of the product into a hydrochloride salt gave the title compound, 0.2 g, m.p. 133°-136°.

reactant | 2-amino-5-(2-bromoacetyl)benzenesulphonamide | 0.5 g | NC1=C(C=C(C=C1)C(CBr)=O)S(=O)(=O)N | C8H9BrN2O3S
reactant | N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl) amine | 0.45 g | CC(CCC1=CC=CC=C1)NCC1=CC=CC=C1 | C17H21N
reactant | propylene oxide | 2.5 ml | C1C(C)O1 | C3H6O
solvent | 2-butanone | 30 ml | CC(CC)=O | C4H8O
product | 2-Amino-5-[1-hydroxy-2-[N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amino]ethyl]benzenesulphonamide | NC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)C(CCC1=CC=CC=C1)C)O)S(=O)(=O)N | C25H31N3O3S
